US06720320B2
3-(7-hydroxybenzo(b)furan-2-yl)-5-methyl-1,2,4-oxadiazole
By the reactions in the same manner as in Starting Material Synthesis Example 5 using 3-(7-methoxybenzo(b)furan-2-yl)-5-methyl-1,2,4-oxadiazole (1.7 g) and boron tribromide (6.5 ml), the title compound (1.5 g) was obtained as white crystals.

reactant | 3-(7-methoxybenzo(b)furan-2-yl)-5-methyl-1,2,4-oxadiazole | 1.7 g | COC1=CC=CC2=C1OC(=C2)C2=NOC(=N2)C | C12H10N2O3
reactant | boron tribromide | 6.5 ml | B(Br)(Br)Br | BBr3
product | 3-(7-hydroxybenzo(b)furan-2-yl)-5-methyl-1,2,4-oxadiazole | 1.5 g | OC1=CC=CC2=C1OC(=C2)C2=NOC(=N2)C | C11H8N2O3
